US08937091B2
3,4-dimethyl-1-acryloylbenzene 8241
Orthoxylene (0.5 mL), acryloyl chloride (120 mg), and aluminium chloride (150 mg) were reacted in dichloromethane (1.5 mL) at from 0° C. to room temperature for 4 hours. The resultant was treated in the same manner as described in Example 1 to obtain the title compound (160 mg).

reactant | Orthoxylene | 0.5 mL | C=1(C(=CC=CC1)C)C | C8H10
reactant | acryloyl chloride | 120 mg | C(C=C)(=O)Cl | C3H3ClO
reactant | aluminium chloride | 150 mg | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | dichloromethane | 1.5 mL | ClCCl | CH2Cl2
product | 3,4-dimethyl-1-acryloylbenzene | 160 mg | CC=1C=C(C=CC1C)C(C=C)=O | C11H12O
